US06084098
Ethyl-4-pyridylacetate (5 g) is dissolved in ethanol (30 mL), treated with platinum oxide catalyst (30 mg) and hydrogenated on a Parr apparatus for 4 hr. The catalyst is filtered off and the ethyl-4-piperidinylacetate is isolated by removal of the solvent under vacuum. This material is then dissolved in acetonitrile (50 mL) and treated with 4-chlorobenzyl chloride (4.9 g) and sodium carbonate (10 g). The resulting mixture is heated in methanol (30 mL) and treated with a solution of lithium hydroxide (2 g) in water (10 mL). The mixture is allowed to stand overnight. Addition of 47.6 mL of 1 N HCI solution followed by concentration and extraction of the residue with chloroform provides the desired 1-(4-chlorobenzyl)-4-piperidylacetic acid. A portion of this material (1 g) is dissolved in methylene chloride and treated with 1,1'-carbonyldiimidazole (0.65 g) and allowed to stand overnight. This solution is then treated with 2-methylindoline (0.5 g). After 2 h the resulting mixture is washed 3 times with water dried and concentrated. Purification by column chromatography on silica gel provides 1.2 g of the desired 2-(1-[4-chlorobenzyl]piperidin-4-yl)-1-(2-methylindolin-1-yl)-1-ethanone (Compound 1). The dihydrochloride salt is subsequently prepared (Compound 1a).

reactant | 4-chlorobenzyl chloride | 4.9 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | sodium carbonate | 10 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | lithium hydroxide | 2 g | [OH-].[Li+]
reactant | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 1-(4-chlorobenzyl)-4-piperidylacetic acid | ClC1=CC=C(CN2CCC(CC2)CC(=O)O)C=C1 | C14H18ClNO2
